US07989438B2
Step 1: tert-butyl 4-(aminosulfonyl)piperazine-1-carboxylate
Sulfamide (5 eq) was added to a solution of tert-butyl piperazine-1-carboxylate in dioxane (0.12 M). The reaction was stirred at reflux overnight. The solvent was removed in vacuo, the residue taken up in EtOAc and washed with H2O, brine, before being dried (Na2SO4), filtered and concentrated in vacuo to give the crude material. Purification was by automated FC (EtOAc:PE:Et3N 40:60:0.02) to afford the title compound (70%). 1H NMR (300 MHz, DMSO-d6, 300 K) δ 1.39 (s, 9H), 2.88-2.90 (m, 4H), 3.37-3.39 (m, 4H), 6.78 (s, 2H).

reactant | Sulfamide | 5 eq | S(=O)(=O)(N)N | H4N2O2S
reactant | tert-butyl piperazine-1-carboxylate | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
solvent | dioxane | 0.12 M | O1CCOCC1 | C4H8O2
product | tert-butyl 4-(aminosulfonyl)piperazine-1-carboxylate | 70% | NS(=O)(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C9H19N3O4S
